US04767768
To a suspension of sodium cyanide (4.5 g) and 3-ethyl-4-nitro-pentanal (7.5 g) in ether (50 ml) was added conc. hydrochloric acid (7.5 ml) at 0° C. with stirring. The resulting mixture was stirred at 0° C. for an hour, diluted with ether, washed successively with water and brine, dried over magnesium sulfate, and then evaporated to dryness in vacuo to give 4-ethyl-2-hydroxy-5-nitro-hexanenitrile (8.1 g).

reactant | sodium cyanide | 4.5 g | [C-]#N.[Na+]
reactant | 3-ethyl-4-nitro-pentanal | 7.5 g | C(C)C(CC=O)C(C)[N+](=O)[O-] | C7H13NO3
reactant | hydrochloric acid | 7.5 ml | Cl | ClH
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-ethyl-2-hydroxy-5-nitro-hexanenitrile | 8.1 g | C(C)C(CC(C#N)O)C(C)[N+](=O)[O-] | C8H14N2O3
